US06987114B1
1) 1-Allyl-5-isopropyl-6-(3,5-dimethylbenzoyl)-2,4-pyrimidinedione
5-Isopropyl-6-(3,5-dimethylbenzoyl)-2,4-pyrimidinedione and allyl bromide were reacted by the same way with the example 45-1 to obtain the titled compound (211 mg, yield: 64.3%).

reactant | 5-Isopropyl-6-(3,5-dimethylbenzoyl)-2,4-pyrimidinedione | C(C)(C)C=1C(NC(NC1C(C1=CC(=CC(=C1)C)C)=O)=O)=O | C16H18N2O3
reactant | allyl bromide | C(C=C)Br | C3H5Br
product | 1-Allyl-5-isopropyl-6-(3,5-dimethylbenzoyl)-2,4-pyrimidinedione | 211 mg, yield: 64.3% | C(C=C)N1C(NC(C(=C1C(C1=CC(=CC(=C1)C)C)=O)C(C)C)=O)=O | C19H22N2O3
